US07122683B2
N-(cyclobutylmethyl)-N-[(3S)-pyrrolidin-3-yl]-2-(trifluoromethyl)benzamide hydrochloride
Tert-butyl (3S)-3-{(cyclobutylmethyl) [2-(trifluoromethyl) benzoyl]amino}pyrrolidine-1-carboxylate from preparation 28 (1.40 g, 3.3 mmol) was dissolved in 4N hydrogen chloride in Dioxane. The solution was stirred for 1 hour and the solvent removed under reduced pressure. The residue was dissolved in water and the solution washed with ether. The aqueous phase was basified by adding aqueous NaOH and extracted with ether. This ether phase was dried over Magnesium Sulfate, filtered and the solvent removed under reduced pressure to afford a gum, which was treated with 2N hydrogen chloride in ether, to afford 0.99 g (86%) of the title compound as a white foam.

reactant | Tert-butyl (3S)-3-{(cyclobutylmethyl) [2-(trifluoromethyl) benzoyl]amino}pyrrolidine-1-carboxylate | C1(CCC1)CN([C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H29F3N2O3
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | Dioxane | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | N-(cyclobutylmethyl)-N-[(3S)-pyrrolidin-3-yl]-2-(trifluoromethyl)benzamide hydrochloride | 0.99 g, 86% | Cl.C1(CCC1)CN(C(C1=C(C=CC=C1)C(F)(F)F)=O)[C@@H]1CNCC1 | InChI=1S/C17H21F3N2O.ClH/c18-17(19,20)15-7-2-1-6-14(15)16(23)22(11-12-4-3-5-12)13-8-9-21-10-13;/h1-2,6-7,12-13,21H,3-5,8-11H2;1H/t13-;/m0./s1
